US06531502B1
2,3-Dihydro-5-formylbenzofuran was condensed with 5-chloro-2-oxindole to give 0.25 g of 5-Chloro-3-(2,3-dihydro-benzofuran-5-ylmethylene)-1,3-dihydroindol-2-one as a yellow-orange solid.

reactant | 2,3-Dihydro-5-formylbenzofuran | C(=O)C=1C=CC2=C(CCO2)C1 | C9H8O2
reactant | 5-chloro-2-oxindole | ClC=1C=C2CC(NC2=CC1)=O | C8H6ClNO
product | 5-Chloro-3-(2,3-dihydro-benzofuran-5-ylmethylene)-1,3-dihydroindol-2-one | 0.25 g | ClC=1C=C2C(C(NC2=CC1)=O)=CC=1C=CC2=C(CCO2)C1 | C17H12ClNO2
